US05677321
7-Cyano-5-nitroindole
A solution of 7-bromo-5-nitroindole (2.5 g, 10.4 mmol), CuCN (3.0 g, 33.3 mmol) and KCN (3.0 g, 46.1 mmol) in 20 mL of DMF was stirred at 120° C. for 24 h. The reaction mixture was diluted with 500 mL of EtOAc and washed with brine several times. Organic layer was dried over Na2SO4 and concentrated in vacuo, yielding a brown oily residue which was subjected to column chromatography (CHCl3, neat) to provide 1.5 g (8.2 mmol, 77%) of the desired product.

reactant | 7-bromo-5-nitroindole | 10.4 mmol, 2.5 g | BrC=1C=C(C=C2C=CNC12)[N+](=O)[O-] | C8H5BrN2O2
reactant | CuCN | 33.3 mmol, 3.0 g | C(#N)[Cu]
reactant | KCN | 46.1 mmol, 3.0 g | [C-]#N.[K+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 7-Cyano-5-nitroindole | 8.2 mmol, 1.5 g, 77% | C(#N)C=1C=C(C=C2C=CNC12)[N+](=O)[O-] | C9H5N3O2
